US05681841
(15) N-[2-(1-tert.butyloxycarbonyl-1-aza-4-cycloheptyl)-ethyl]-N-(2-hydroxyethyl)-N'-[4-[2-(methoxycarbonyl)-ethyl]-phenyl]-urea
The N-[2-(1-tert.butyloxycarbonyl-1-aza-4-cycloheptyl)-ethyl]-ethanolamine used as amine component is obtained by reacting 1-tert.butyloxycarbonyl-4-[2-(methane-sulfonyloxy)-ethyl]-1-azacycloheptane with ethanolamine. Rf value: 0.27 (Silica gel; cyclohexane/ethyl acetate=3:7)

reactant | N-[2-(1-tert.butyloxycarbonyl-1-aza-4-cycloheptyl)-ethyl]-ethanolamine | C(C)(C)(C)OC(=O)N1CCC(CCC1)CCNCCO | C15H30N2O3
reactant | 1-tert.butyloxycarbonyl-4-[2-(methane-sulfonyloxy)-ethyl]-1-azacycloheptane | C(C)(C)(C)OC(=O)N1CCC(CCC1)CCOS(=O)(=O)C | C14H27NO5S
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N-[2-(1-tert.butyloxycarbonyl-1-aza-4-cycloheptyl)-ethyl]-N-(2-hydroxyethyl)-N'-[4-[2-(methoxycarbonyl)-ethyl]-phenyl]-urea | C(C)(C)(C)OC(=O)N1CCC(CCC1)CCN(C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CCO | C26H41N3O6
